US08735362B2
(3-Oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester (1.01 g, prepared from (D)-cycloserine as described in Chem. Pharm. Bull. 2002, 50(4) 554-557) was dissolved in dimethylformamide (5 ml), the solution was cooled to 0° C. and 616 mg of potassium t-butoxide was added portionwise. The reaction mixture was stirred at 0° C. for 1 hour then 710 mg methylene iodide was added and the reaction mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into water and extracted with diethyl ether. The organic phase was then washed several times with water, dried over sodium sulphate and the solvent removed in vacuo. Crude ((R)-2-methyl-3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester (140 mg) was obtained as a white solid. LCMS (method A) 1.11 min, MH+ 217; 1H-NMR (CDCl3, 400 MHz): 5.20 (m, 1H), 4.70 (m, 1H), 4.55 (m, 1H), 4.00 (dd, 1H), 3.20 (s, 3H), 1.40 (s, 9H).

reactant | (3-Oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester | 1.01 g | C(C)(C)(C)OC(NC1C(NOC1)=O)=O | C8H14N2O4
reactant | potassium t-butoxide | 616 mg | CC(C)([O-])C.[K+]
reactant | methylene iodide | 710 mg | C(I)I | CH2I2
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ((R)-2-methyl-3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester | 140 mg | C(C)(C)(C)OC(N[C@H]1C(N(OC1)C)=O)=O | C9H16N2O4
